US05221671
1-(Cyano-1-methylethoxycarbonyl)-4-piperidone
5.06 ml of dimethylsulfoxide was gradually dropped, at -78° C. into a solution of 4.15 ml of oxalyl chloride in dichloromethane (50 ml), into which a dichloromethane solution of 5.05 g of 1-(1-cyano-1-methylethoxycarbonyl)-4-hydroxypiperidine was dropped. After agitation at the temperature for 1 hour, 16.57 ml of triethylamine was added, followed by agitation at room temperature for 1 hour. The reaction solution was filtered, washed with water, and dried with anhydrous magnesium sulfate. The solvent was distilled off and the resultant residue was purified by silica gel column chromatography (elution solvent: ethyl acetate:n-hexane=1:9), thereby obtaining 3.9 g of the intended compound.

reactant | dimethylsulfoxide | 5.06 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 4.15 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(1-cyano-1-methylethoxycarbonyl)-4-hydroxypiperidine | 5.05 g | C(#N)C(C)(OC(=O)N1CCC(CC1)O)C | C10H16N2O3
reactant | triethylamine | 16.57 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-(Cyano-1-methylethoxycarbonyl)-4-piperidone | 3.9 g | C(#N)C(C)(OC(=O)N1CCC(CC1)=O)C | C10H14N2O3
